US07470664B2
Step 2: Ethyl 1-but-3-en-1-ylcyclopropanecarboxylate
To a stirred suspension of NaH (60% dispersion in mineral oil, 3.02 g, 75.5 mmol) in dry benzene (100 mL), at 22° C. and under nitrogen, was added dropwise ethyl 2-(diethoxyphosphoryl)hex-5-enoate with anhydrous EtOH (0.044 mL, 0.76 mmol) over 30 minutes. Stirred for 30 minutes, this reaction, cooled at 0° C. and attached with a dry ice/acetone condenser, was added via cannula ethylene oxide (12.7 g, 289.3 mmol), then refluxed at 50° C. for 5 hours. Quenched at 22° C. with 1N aqueous NH4Cl (100 mL), the reaction solution was extracted with Et2O (3×200 mL). The combined Et2O layers were washed with aqueous saturated NaHCO3 (100 mL), water (70 mL), brine (70 mL), dried over Na2SO4, filtered and concentrated. The residue was flash chromatographed on 120 g silica gel 60, eluting with 20-100% EtOAc/Hexane, to give the title product (5.07 g, 48%). LRMS (ESI) m/z 169.2 [(M+H)+; calcd for C10H17O2: 169.1].

reactant | NaH | 75.5 mmol, 3.02 g | [H-].[Na+]
reactant | ethyl 2-(diethoxyphosphoryl)hex-5-enoate | C(C)OP(=O)(OCC)C(C(=O)OCC)CCC=C | C12H23O5P
reactant | ethylene oxide | 289.3 mmol, 12.7 g | C1CO1 | C2H4O
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
catalyst | EtOH | 0.76 mmol, 0.044 mL | CCO | C2H6O
product | Ethyl 1-but-3-en-1-ylcyclopropanecarboxylate | 5.07 g, 48% | C(CC=C)C1(CC1)C(=O)OCC | C10H16O2
